US06706725B1
l) (E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-3-thienyl]-3-ethyl-4,4-dimethylnon-6-en-3-ol
In a manner similar to that of Example 6(l), by reaction of 310 mg (0.46 mmol) of (E)-7-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}-3-ethyl-4,4-dimethylnon-6-en-3-ol with 1.1 mL (1.1 mmol) of 1.0 M tetrabutylammonium bromide, the desired product is obtained in the form of a colourless oil (m=200 mg; Y=98%).

reactant | (E)-7-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}-3-ethyl-4,4-dimethylnon-6-en-3-ol | 0.46 mmol, 310 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)/C(=C/CC(C(CC)(O)CC)(C)C)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C38H66O4SSi2
catalyst | tetrabutylammonium bromide | 1.1 mmol, 1.0 M, 1.1 mL | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-3-thienyl]-3-ethyl-4,4-dimethylnon-6-en-3-ol | OCC=1C=C(OCC2=CC(=CS2)/C(=C/CC(C(CC)(O)CC)(C)C)/CC)C=CC1CO | C26H38O4S
